US04185016
16.5 g of L-proline methyl ester and 27.2 g of N,N'-dicyclohexylcarbodiimide were successively added to an ice-cooled and constantly stirred solution of 25.2 g of 3-hydroxy-2-nitro-p-toluic acid dissolved in a mixture consisting of 480 ml of dichloromethane and 43 ml of N,N'-dimethylformamide. The whole mixture was stirred at ice-cooled temperature for 1 hour and then at room temperature for 1 hour. After the reaction, the separated crystalline precipitate was filtered off, and the filtrate was washed with 10% aqueous hydrochloric acid, 5% aqueous solution of sodium hydrogen carbonate and 5% aqueous solution of sodium carbonate. The layer of 5% aqueous solution of sodium carbonate was acidified with hydrochloric acid and extracted with chloroform. The chloroform layer was dehydrated and concentrated. The residue was recrystallized from 50% ethanol, and there was obtained 32.7 g of 1-(3-hydroxy-2-nitro-p-toluyl)-L-proline methyl ester as yellow-colored prismatic crystal having a melting point of 111° to 113.5° C.

reactant | L-proline methyl ester | 16.5 g | COC([C@H]1NCCC1)=O | C6H11NO2
reactant | N,N'-dicyclohexylcarbodiimide | 27.2 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 3-hydroxy-2-nitro-p-toluic acid | 25.2 g | OC=1C(=C(C=CC1C(=O)O)C)[N+](=O)[O-] | C8H7NO5
reactant | dichloromethane | 480 ml | ClCCl | CH2Cl2
solvent | N,N'-dimethylformamide | 43 ml | CN(C)C=O | C3H7NO
product | 1-(3-hydroxy-2-nitro-p-toluyl)-L-proline methyl ester | 32.7 g | COC([C@H]1N(CCC1)C1=C(C(=C(C=C1)C)[N+](=O)[O-])O)=O | C13H16N2O5
